US08859768B2
A mixture of 2-fluoro-4-iodo-5-methylpyridine (60 g, 253 mmol) and 1-(2,4-dimethoxyphenyl)methanamine (190.6 mL, 1270 mmol) was allowed to stir at 110° C. overnight. The mixture was allowed to cool to rt and was then diluted with EtOAc (190 mL). The resulting solid was filtered and washed with EtOAc and then purified by column chromatography to give N-(2,4-dimethoxybenzyl)-4-iodo-5-methylpyridin-2-amine (55.0 g, 57%).

reactant | 2-fluoro-4-iodo-5-methylpyridine | 253 mmol, 60 g | FC1=NC=C(C(=C1)I)C | C6H5FIN
reactant | 1-(2,4-dimethoxyphenyl)methanamine | 1270 mmol, 190.6 mL | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
solvent | EtOAc | 190 mL | CCOC(=O)C | C4H8O2
product | N-(2,4-dimethoxybenzyl)-4-iodo-5-methylpyridin-2-amine | 55.0 g, 57% | COC1=C(CNC2=NC=C(C(=C2)I)C)C=CC(=C1)OC | C15H17IN2O2
